US05256800
In an argon gas stream, 20.6 ml of n-butyl lithium (1.6M solution in hexane) were added to 60 ml of an ether solution containing 3.53 g (0.033 mol) of diisopropylamine at -20° C. to form LDA. After stirring for 30 minutes, a mixture of 4.26 g (0.03 mol) of 2,2-dimethyl-6-methyl-1,3-dioxin-4-one and 60 ml of ether as well as 60 ml of an ether solution containing 1.69 g (0.015 mol) of chloroacetyl chloride were added to LDA. After the temperature was gradually returned to room temperature, 10% hydrochloric acid was added thereto to neutralize the solution, and extraction was then carried out with ether. The resultant organic layer was dried over anhydrous magnesium sulfate. Next, the solvent was distilled off, and the residue was then subjected to column chromatography (an eluent of hexane:ethyl acetate =4:1), thereby obtaining 2.26 g (yield 69%) of 2,2-dimethyl-6-(3-chloro-2-oxopropyl)-1, 3-dioxin-4 -one.

reactant | 2,2-dimethyl-6-methyl-1,3-dioxin-4-one | 0.03 mol, 4.26 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | chloroacetyl chloride | 0.015 mol, 1.69 g | ClCC(=O)Cl | C2H2Cl2O
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2,2-dimethyl-6-(3-chloro-2-oxopropyl)-1, 3-dioxin-4 -one | 2.26 g, yield 69% | CC1(OC(=CC(O1)=O)CC(CCl)=O)C | C9H11ClO4
